US04356313
5,6-Dichloro-9a-ethyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one, (Example 1, Step C) (15 gm., 0.048 mole), potassium carbonate (13.3 gm., 0.096 mole), dimethylformamide (100 ml.) and iodoacetic acid (10.6 gm., 0.057 mole) is stirred at room temperature for 24 hours. The reaction mixture is poured into water (150 ml.), stirred, warmed to 50° C., filtered and the filtrate acidified with 6 N hydrochloric acid to obtain [(5,6-dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid, which after recrystallization from acetic acid, melts at 237° C.-238° C.

reactant | 5,6-Dichloro-9a-ethyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)O)CC)=O | C15H14Cl2O2
reactant | potassium carbonate | 0.096 mole, 13.3 gm | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | iodoacetic acid | 0.057 mole, 10.6 gm | ICC(=O)O | C2H3IO2
solvent | water | 150 ml | O | H2O
product | [(5,6-dichloro-9a-ethyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]acetic acid | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OCC(=O)O)CC)=O | C17H16Cl2O4
